US09029371B2
3-[2-(4-Phenoxy-phenyl)-morpholin-4-yl]-propionic acid tert-butyl ester (49 mg) was treated with HCl in 1,4-dioxane (0.5 mL; 4.0 mol/L, 2 mmol) and shaken overnight at room temperature. Removal of the solvent in vacuo yielded 3-[2-(4-phenoxy-phenyl)-morpholin-4-yl]-propionic acid hydrochloride as an amorphous broken white powder (48 mg). Rt=1.60 min.

reactant | 3-[2-(4-Phenoxy-phenyl)-morpholin-4-yl]-propionic acid tert-butyl ester | 49 mg | C(C)(C)(C)OC(CCN1CC(OCC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H29NO4
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 2 mmol, 4.0 mol/L, 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-[2-(4-phenoxy-phenyl)-morpholin-4-yl]-propionic acid hydrochloride | 48 mg | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)C1CN(CCO1)CCC(=O)O | InChI=1S/C19H21NO4.ClH/c21-19(22)10-11-20-12-13-23-18(14-20)15-6-8-17(9-7-15)24-16-4-2-1-3-5-16;/h1-9,18H,10-14H2,(H,21,22);1H
